US08372874B2
Thionyl chloride (0.15 mL, 2.1 mmol) is added dropwise at 0° C. to a solution of 2-methyltetrahydro-2-furancarboxylic acid (250 mg, 1.9 mmol) in methanol (2.0 mL). After bringing the reaction mixture to room temperature, it is heated under reflux for 1 h. The solvent is removed under reduced pressure, the crude is dissolved in DCM and filtered through a pad of silica. Removal of the solvent under reduced pressure affords 276.0 mg of methyl 2-methyltetrahydro-2-furancarboxylate that is used in the next step without further purification. Yield: 93%. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.49 (3H, s), 1.78-1.85 (1H, m), 1.91-1.99 (2H, m), 2.30-2.37 (1H, m), 3.75 (3H, s), 3.92-4.02 (2H, m).

reactant | Thionyl chloride | 2.1 mmol, 0.15 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methyltetrahydro-2-furancarboxylic acid | 1.9 mmol, 250 mg | CC1(OCCC1)C(=O)O | C6H10O3
reactant | methanol | 2.0 mL | CO | CH4O
product | methyl 2-methyltetrahydro-2-furancarboxylate | 276.0 mg, Yield: 93% | CC1(OCCC1)C(=O)OC | C7H12O3
